US03996374
A solution of 4.36 g. of 5-chloro-2-{3-[(methylsulfonyl)oxy]propyl}-3-phenylisoindole-1-carboxylic acid ethyl ester in 25 ml. of hexamethylphosphoric acid triamide is treated with 25 ml. of N-methylaniline and heated at 80° C. for 24 hours. The mixture is then evaporated to dryness under reduced pressure, and the residue treated with 250 ml. of ice-water. The oily precipitate is taken up in methylene chloride and the extract washed with a saturated solution of sodium chloride, dried over sodium sulfate and concentrated to dryness. The resulting oil is purified by chromatography on 150 g. of aluminum oxide [neutral; Brockmann activityI]. By elution with methylene chloride and evaporation of the solvent, there is obtained 5-chloro-2-[3-(N-methylanilino)propyl]-3-phenylisoindole- 1-carboxylic acid ethyl ester; melting point 108°-110° C. Crystallization from ether/hexane gives almost colorless crystals of the same melting point.

reactant | 5-chloro-2-{3-[(methylsulfonyl)oxy]propyl}-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCOS(=O)(=O)C | C21H22ClNO5S
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
solvent | hexamethylphosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 5-chloro-2-[3-(N-methylanilino)propyl]-3-phenylisoindole- 1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCCN(C1=CC=CC=C1)C | C27H27ClN2O2
